US05489592
4-(3,4-Dichlorophenyl)-3-buten-2-ol
2.25 g (0.0599 mol) of NaBH4 are added portionwise at room temperature to a suspension of 39.2 g (0.182 mol) of 4-(3,4-dichlorophenyl)-3-buten-2-one in 900 ml of ethanol and the mixture is stirred overnight at room temperature. The mixture is concentrated under vacuum, taken up in water, extracted with methylene chloride, washed with water, dried over sodium sulphate, filtered and evaporated under vacuum. The product obtained is used without subsequent purification in the following stage. Yd.: 35.2 g (89%)

reactant | NaBH4 | 0.0599 mol, 2.25 g | [BH4-].[Na+]
reactant | 4-(3,4-dichlorophenyl)-3-buten-2-one | 0.182 mol, 39.2 g | ClC=1C=C(C=CC1Cl)C=CC(C)=O | C10H8Cl2O
solvent | ethanol | 900 ml | C(C)O | C2H6O
product | 4-(3,4-Dichlorophenyl)-3-buten-2-ol | ClC=1C=C(C=CC1Cl)C=CC(C)O | C10H10Cl2O
